US04579862
A solution of phenethyl magnesium bromide (prepared from 25 l g, 0.135 mol of phenethyl bromide and excess magnesium turnings) in anhydrous tetrahydrofuran (50 ml) was added to a stirred solution of allyl bromide (16.34 g, 0.135 mol) in anhydrous tetrahydrofuran (150 ml) at room temperature and under an atmosphere of dry nitrogen. The mixture was stirred at room temperature for 3 hours and the solvent was then evaporated off under reduced pressure and the residue was dissolved in ethyl acetate. The solution was washed with a saturated aqueous solution of ammonium chloride and the solvent was evaporated off under reduced pressure to give an oil which was distilled to give 5-phenylpent-1-ene as a colourless oil (b.p. 40° C., 0.5 mm, Hg).

reactant | phenethyl magnesium bromide | 0.135 mol, 25 l | C(CC1=CC=CC=C1)[Mg]Br
reactant | allyl bromide | 0.135 mol, 16.34 g | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 5-phenylpent-1-ene | C1(=CC=CC=C1)CCCC=C | C11H14
